US07723329B2
A solution of toluene-4-sulfonic acid 2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (0.350 g, 0.541 mmol) and ethylmethylamine (1.0 mL, 12 mmol) in THF (8 mL) was stirred for 2 hours in a sealed tube at 70° C. Additional ethylmethylamine (1.0 mL, 12 mmol) was added, and the reaction mixture was stirred at 80° C. in sealed tube for 2 hours. After cooling to ambient temperature, the reaction mixture was solvent evaporated and partitioned in ethyl acetate and aqueous sodium bicarbonate. The organic phase was then washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated. It was dried at 80° C. for 20 minutes in vacuo to yield {2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-ethyl-methyl-amine as a yellow semi-solid (0.268 g, 92.7%). This was dissolved in chloroform, and ethereal hydrochloride was added. The mixture was then concentrated and dried in vacuo at 82° C. for 14 hours. The result was the hydrochloride as a light orange foam (0.266 g); Mass Spectrum (+EI, [M+H]+) m/z 534. 1HNMR (500 MHz, DMSO-d6): δ9.90-9.93 (s, br, 1H), 8.73-8.75 (m, 1H), 8.54-8.57 (m, 1H), 8.27 (d, 1H, J=8.29 Hz), 8.02-8.05 (m, 1H), 7.82 (d, 1H, J=9.27 Hz), 7.70-7.74 (m, 1H), 7.56-7.63 (m, 2H), 7.30 (d. 1H, J=2.20 Hz), 7.15-7.26 (m, 4H), 7.04 (d, 1H, J=7.57 Hz), 5.73 (s, 2H), 4.36-4.38 (m, 2H), 3.40-3.55 (m, 3H), 3.09-3.14 (br, 1H), 2.78 (s, 3H), 1.19-1.23 ppm (m, 3H). Elemental Analysis for C29H28ClN3O3S.1.00 HCl.0.75 mol H2O: Calcd: C, 59.64; H, 5.26; N, 7.19; Found: C, 59.24; H, 5.17; N, 6.89.

reactant | toluene-4-sulfonic acid 2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 0.541 mmol, 0.350 g | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)OCCOS(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C33H27ClN2O6S2
reactant | ethylmethylamine | 12 mmol, 1.0 mL | C(C)NC | C3H9N
reactant | ethylmethylamine | 12 mmol, 1.0 mL | C(C)NC | C3H9N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | {2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-ethyl-methyl-amine | 0.268 g, 92.7% | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)OCCN(C)CC)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C29H28ClN3O3S
